US04820734
A solution of 106.6 g (0.33 mol) of rac-(2S*)-2-[(R*)-4-(benzyloxy)-α-(nitromethyl)benzyl]cyclohexanone in 500 ml of dry tetrahydrofuran is added dropwise while stirring to a suspension of 28.6 g (0.75 mol) of lithium aluminium hydride in 500 ml of dry tetrahydrofuran under argon so that the temperature does not exceed 50°. The reaction mixture is stirred at 50° overnight and it is treated, after cooling to room temperature, with 300 ml of ethanol and subsequently with 100 ml of tetrahydrofuran/water (1:1). The separated precipitate is filtered off under suction while washing with methylene chloride and the filtrate is evaporated. The crystalline product obtained is recrystallized from methylene chloride/isopropyl ether. There is obtained rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-4-(benzyloxy)benzyl]cyclohexanol in the form of colourless crystals of m.p. 160°-161°.

reactant | rac-(2S*)-2-[(R*)-4-(benzyloxy)-α-(nitromethyl)benzyl]cyclohexanone | 0.33 mol, 106.6 g | C(C1=CC=CC=C1)OC1=CC=C([C@H](C[N+](=O)[O-])C2C(CCCC2)=O)C=C1 | C21H23NO4
reactant | lithium aluminium hydride | 0.75 mol, 28.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | tetrahydrofuran water | 100 ml | O1CCCC1.O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-4-(benzyloxy)benzyl]cyclohexanol | NC[C@@H](C1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1[C@@H](CCCC1)O | C21H27NO2
